US08304419B2
({3-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine (3.00 g, 7.83 mmol) was combined with dicyanozinc (0.460 g, 3.92 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.453 g, 0.392 mmol) in n-propanol (15 mL) and heated at 120° C. for 25 min in a microwave reactor under an inert atmosphere. DMF (8 mL) was added and the reaction mixture was again heated at 120° C. for 90 min in a microwave reactor at which time LC-MS indicated complete conversion. The reaction mixture was concentrated to remove the n-propanol, diluted with EtOAc, washed four times with saturated aqueous NaHCO3, dried over MgSO4, filtered and concentrated to dryness. The residue was purified on 80 g silica gel eluted successively with EtOAc followed by 0 to 10% CH3OH/DCM to give 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-4-chloro-5-fluorobenzonitrile (1.16 g, 3.52 mmol, 45.0% yield) as a pale yellow oil which crystallized on standing. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.92 (dd, J=8.65, 1.51 Hz, 1H), 7.47-7.58 (m, 2 H), 7.25 (s, 1H), 3.77 (s, 2H), 1.93 (br. s., 2H). LC-MS (ES−) m/z 326.96, 329.05 [M−1]. LC-MS (ES+) m/z 329.00, 330.96 [M+H].

reactant | ({3-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine | 7.83 mmol, 3.00 g | BrC=1C=C(C(=C(C1)OC=1C(=C(C=CC1Cl)CN)F)Cl)F | C13H8BrCl2F2NO
reactant | dicyanozinc | 3.92 mmol, 0.460 g | C(#N)[Zn]C#N
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | n-propanol | 15 mL | C(CC)O | C3H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.392 mmol, 0.453 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-4-chloro-5-fluorobenzonitrile | 3.52 mmol, 1.16 g, 45.0% yield | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1Cl)F)F | C14H8Cl2F2N2O
